US09163020B2
See FIG. 20(b). To the stirred solution of methyl 1-((5-fluoro-2-methoxy-6-methylpyridin-3-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (0.15 g, 0.47 mmol) in dichloromethane (10 mL), were added 2-fluoroethan-1-amine hydrochloride (71 mg, 0.71 mmol), triethylamine (0.142 g, 1.41 mmol) and T3P (0.9 g, 1.41 mmol) and the mixture was stirred for 16 h at room temperature. Then the reaction mixture was poured into water and extracted with dichloromethane. The combined organic layer was washed with water, brine, dried over sodium sulfate, and concentrated at reduced pressure. The residue was purified by silica gel column chromatography to yield 1-((5-fluoro-2-methoxy-6-methylpyridin-3-yl)methyl)-N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide as a white solid. Yield: 30 mg (18%). ES+MS m/z: 361 (M+1). 1H NMR (400 MHz, DMSO-d6): δ ppm 2.31 (d, 3H, J=2.9 Hz), 3.64-3.68 (m, 2H), 3.71-3.75 (m, 2H), 3.85 (s, 3H), 4.49-4.51 (m, 2H), 4.61-4.63 (m, 2H), 5.41 (s, 2H), 7.28-7.32 (m, 1H), 7.45 (d, 1H, J=9.0 Hz), 8.08-8.11 (m, 1H), 8.29 (s, 1H), 8.49-8.50 (m, 1H), 8.92 (t, 1H, J=5.8 Hz).

reactant | methyl 1-((5-fluoro-2-methoxy-6-methylpyridin-3-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.47 mmol, 0.15 g | CC1=C(C2=NC=CC=C2N1CC=1C(=NC(=C(C1)F)C)OC)C(=O)O | C17H16FN3O3
reactant | 2-fluoroethan-1-amine hydrochloride | 0.71 mmol, 71 mg | Cl.FCCN
reactant | triethylamine | 1.41 mmol, 0.142 g | C(C)N(CC)CC | C6H15N
reactant | T3P | 1.41 mmol, 0.9 g | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-((5-fluoro-2-methoxy-6-methylpyridin-3-yl)methyl)-N-(2-fluoroethyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | FC=1C=C(C(=NC1C)OC)CN1C=C(C2=NC=CC=C21)C(=O)NCCF | C18H18F2N4O2
